US05219860
Step 2: 1'-Butylspiro[1H-indene1,4'-piperidine]
In the same way as that described in Example 1, step 5, the title compound was prepared, using spiro[1H-indene-1,4'-piperidine] (333 mg, 1.8 mmol), DMF (15 ml), potassium carbonate (0.26 g, 1.9 mmol) and iodobutane (267 μl, 2.4 mmol). The crude residue was chromatographed in dichloromethane:methanol 95:5, to give 1'-butylspiro[1H-indene-1,4'-piperidine] (136 mg, 31%) as a clear oil.

reactant | spiro[1H-indene-1,4'-piperidine] | 1.8 mmol, 333 mg | N1CCC2(CC1)C=CC1=CC=CC=C12 | C13H15N
reactant | potassium carbonate | 1.9 mmol, 0.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodobutane | 2.4 mmol, 267 μl | ICCCC | C4H9I
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1'-butylspiro[1H-indene-1,4'-piperidine] | 136 mg, 31% | C(CCC)N1CCC2(CC1)C=CC1=CC=CC=C12 | C17H23N
